US07989461B2
Preparation of 1-chloro-6-methyl-N-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)isoquinolin-5-amine
6-Methyl-5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-ylamino)isoquinolin-1(2H)-one (195 mg, 0.54 mmol) was suspended in POCl3 (10 mL) and heated at 120° C. for 3 h. POCl3 was removed in vacuo and the residue was washed with toluene three times. The residue was added to water and the resulting solid collected by filtration, washing with saturated aqueous sodium bicarbonate and water. The resulting title compound was dried in vacuo. MS (M+H)+ 377.

reactant | 6-Methyl-5-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-ylamino)isoquinolin-1(2H)-one | 0.54 mmol, 195 mg | CC=1C(=C2C=CNC(C2=CC1)=O)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C20H18N6O
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methyl-N-(3-(6-(methylamino)pyrimidin-4-yl)pyridin-2-yl)isoquinolin-5-amine | ClC1=NC=CC=2C(=C(C=CC12)C)NC1=NC=CC=C1C1=NC=NC(=C1)NC | C20H17ClN6
